US03988300
To a solution of 2-chloro-4-nitrobenzophenone (27 grams, 0.103 mole) in hot ethanol (400 ml.) and water (200 ml.) was added iron (30 grams), followed by concentrated hydrochloric acid (25 ml.) dropwise and with stirring. After the addition, the reaction mixture was stirred at reflux during 1.5 hours, cooled, then made alkaline with ammonium hydroxide and chloroform extracted. After drying the chloroform layer (anhydrous MgSO4) and filtering, the solution was evaporated to an orange solid, melting point 120° - 130° C. Crystallization from benzene-hexane gave faint yellow crystals of 4-amino-2-chlorobenzophenone having a melting point of 144° - 145° C., and recovering 16.5 grams which amounts to a 69% yield.

reactant | 2-chloro-4-nitrobenzophenone | 0.103 mole, 27 grams | ClC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
catalyst | iron | 30 grams | [Fe] | Fe
product | 4-amino-2-chlorobenzophenone | 69% yield | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)Cl | C13H10ClNO
